US06245799B1
Azetidin-3-yl-(2-methoxy-phenyl-amine)
A solution of 2.0 g of (1-benzhydryl-azetidin-3-yl)-(2-methoxyphenyl)-amine in 30 mL of methanol was added to a suspension of 10% Pd/C in methanol. 4.0 g of ammonium formate was added portion wise and the reaction was heated under reflux for 2 h. The mixture was cooled, filtered over celite, the filtrate was evaporated. The residue was triturated with CH2Cl2, and filtered. The filtrate was evaporated to give 0.840 g of the desired product.

reactant | (1-benzhydryl-azetidin-3-yl)-(2-methoxyphenyl)-amine | 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC1=C(C=CC=C1)OC | C23H24N2O
reactant | ammonium formate | 4.0 g | C(=O)[O-].[NH4+]
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | Azetidin-3-yl-(2-methoxy-phenyl-amine) | 0.840 g | N1CC(C1)NC1=C(C=CC=C1)OC | C10H14N2O
